US07977358B2
E] [5-Cyclopropyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone
In analogy to the procedure described in Example 160E], 5-cyclopropyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid and 4-(1-pyrrolidinyl)piperidine gave the title compound as a light yellow gum (91%). MS: 526.0 (MH+).

reactant | 5-cyclopropyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid | C1(CC1)C1=C(C(=NN1C1=CC(=CC=C1)OC(F)(F)F)C1=CC=NC=C1)C(=O)O | C19H14F3N3O3
reactant | 4-(1-pyrrolidinyl)piperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
product | [5-Cyclopropyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone | 91% | C1(CC1)C1=C(C(=NN1C1=CC(=CC=C1)OC(F)(F)F)C1=CC=NC=C1)C(=O)N1CCC(CC1)N1CCCC1 | C28H30F3N5O2
